US07259183B2
2.20 g (10 mmol) of 2-bromo-4-chloro-6-methyl aniline were dissolved in 125 ml acetic acid. 0.69 g (10 mmol) of sodium nitrite dissolved in 2 ml water were added dropwise. The reaction mixture was stirred at rt for 4 h. Acetic acid was evaporated and the residue dissolved in EtOAc. The organic layer was washed with water, dried over sodium sulfate, filtered and the solvent was evaporated. The residue was several times evaporated with heptane to yield 2.04 g (88%) of 7-bromo-5-chloro-1H-indazol as a light brown solid. 1H NMR (DMSO-d6, 300 MHz): δ 8.23 (s, 1H), 7.91 (s, 1H), 7.67 (s, 1H).

reactant | 2-bromo-4-chloro-6-methyl aniline | 10 mmol, 2.20 g | BrC1=C(N)C(=CC(=C1)Cl)C | C7H7BrClN
reactant | sodium nitrite | 10 mmol, 0.69 g | N(=O)[O-].[Na+]
solvent | acetic acid | 125 ml | C(C)(=O)O | C2H4O2
solvent | water | 2 ml | O | H2O
product | 7-bromo-5-chloro-1H-indazol | 2.04 g, 88% | BrC=1C=C(C=C2C=NNC12)Cl | C7H4BrClN2
